US09237990B2
2-Methyl-hexahydrophthalic anhydride (Also known as 4-methyl-1,2-cyclohexanedicarboxylic anhydride; 210.0 g, 1.25 mol, CAS #19438-60-9, Alfa Aesar, lot B04w039), 4-(dimethylamino)pyridine (DMAP, 7.5 g, 0.06 mol, CAS #1122-58-3, Alfa Aesar, lot L125009), 2-hydroxyethylmethacrylate (HEMA, 162.5 g, 1.25 mol, and butylated hydroxytoluene (BHT, 0.380 g) were charged into a 1-liter 3-neck reaction flask equipped with a mechanical stirrer, a thermocouple connected to a temperature controller, a dry air stream running through a T-shape connection into the reactor then to an oil bubbler, and a heating mantle. The mixture was continuously stirred at 95° C. for 5 hours. The heat was turned off and the flask contents were allowed to cool to room temperature to give 4-methyl-(2-methacryloyloxyethyl)hexahydrophthalic acid intermediate as a colorless viscous liquid. Structure was confirmed by NMR.

reactant | 2-Methyl-hexahydrophthalic anhydride | CC12C(C(=O)OC1=O)CCCC2 | C9H12O3
reactant | 4-methyl-1,2-cyclohexanedicarboxylic anhydride | CC1CC2C(CC1)C(=O)OC2=O | C9H12O3
reactant | 2-hydroxyethylmethacrylate | OCCOC(C(=C)C)=O | C6H10O3
catalyst | 4-(dimethylamino)pyridine | 0.06 mol, 7.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-methyl-(2-methacryloyloxyethyl)hexahydrophthalic acid | CC1CC(C(C(=O)O)(CC1)CCOC(C(=C)C)=O)C(=O)O | C15H22O6
